US07105707B2
The procedure was identical to Example 1, with the exception that 1-octyne (0.590 ml; 0.441 g; 4.00 mmol) was used as a substrate instead of phenylacetylene and 4-chlorobenzonitrile (0.275 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 23 h at 65° C. showed the presence of 1.41 mmol (70% yield) of 1-chloro-4-(1-octynyl)benzene, 0.11 mmol 1,4-bis(1-octynyl)benzene and no remaining 4-chlorobenzonitrile in the reaction mixture.

reactant | 1-octyne | 4.00 mmol, 0.590 ml, 0.441 g | C#CCCCCCC | C8H14
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-chlorobenzonitrile | 2.00 mmol, 0.275 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
catalyst | 1,4-bis(1-octynyl)benzene | 0.11 mmol | C(#CCCCCCC)C1=CC=C(C=C1)C#CCCCCCC | C22H30
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 1-chloro-4-(1-octynyl)benzene | 1.41 mmol, 70% yield | ClC1=CC=C(C=C1)C#CCCCCCC | C14H17Cl
